** sch_path: /foss/designs/iic_osic_tools/frac-n-pll-vco-unic_cass/schematic/blocks/charge-pump/CP_lvs.sch
.SUBCKT CP_lvs CTRL UP VDD Ibias DN GND
*.PININFO CTRL:O UP:I VDD:I Ibias:I DN:I GND:I

M2 Vbn Vbn net2 GND sg13_lv_nmos w=3u l=2u ng=1 m=1
M8 net5 GND VDD VDD sg13_lv_pmos w=10u l=2u ng=1 m=1

R3 CTRL1 CTRL rsil w=0.5e-6 l=1000e-6 m=1 b=0
R2 CTRL1 CTRL2 rsil w=0.5e-6 l=2500e-6 m=1 b=0

C4 CTRL GND cap_cmim w=60.0e-6 l=60.0e-6 m=1
C1 CTRL2 GND cap_cmim w=40.0e-6 l=40.0e-6 m=4
C2 CTRL1 GND cap_cmim w=15.0e-6 l=20.0e-6 m=4

M11 Ibias Ibias net5 VDD sg13_lv_pmos w=10u l=2u ng=1 m=1
M3 Vbn Ibias net1 VDD sg13_lv_pmos w=10u l=2u ng=1 m=1
M4 net1 GND VDD VDD sg13_lv_pmos w=10u l=2u ng=1 m=1
M7 net4 UP VDD VDD sg13_lv_pmos w=10u l=2u ng=1 m=1
M9 CTRL1 Ibias net4 VDD sg13_lv_pmos w=10u l=2u ng=1 m=1

M10 net2 VDD GND GND sg13_lv_nmos w=3u l=2u ng=1 m=1
M1 net3 DN GND GND sg13_lv_nmos w=3u l=2u ng=1 m=1
M5 CTRL1 Vbn net3 GND sg13_lv_nmos w=3u l=2u ng=1 m=1

.ENDS

.GLOBAL GND
.GLOBAL VDD
